US05958918
A. 7-Methoxy-2-napthalenesulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]-(2-methoxybenzyl)amide
To a solution of 7-methoxynaphtalene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]amide (0.12 g, 0.26 mmol), prepared as described in EXAMPLE 43, part A, in 20 mL of acetone is added K2CO3 (0.07 g, 0.53 mmol), 2-methoxybenzyl chloride (0.09 g, 0.28 mmol) and tetrabutylammonium iodide (0.02 g, 0.05 mmol). The resulting mixture is stirred for 48 hours, then diluted with CH2Cl2 and washed with saturated NaHCO3, H2O and saturated NaCl. The organic layer is dried over MgSO4, filtered, and concentrated. The crude product is purified by column chromatography eluting with 3% MeOH/CH2Cl2 to afford the title compound as a white foam.

reactant | 7-methoxynaphtalene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]amide | 0.26 mmol, 0.12 g | C(#N)C=1C=C(CN2C([C@H](CC2)NS(=O)(=O)C2=CC3=CC(=CC=C3C=C2)OC)=O)C=CC1 | C23H21N3O4S
reactant | K2CO3 | 0.53 mmol, 0.07 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-methoxybenzyl chloride | 0.28 mmol, 0.09 g | COC1=C(CCl)C=CC=C1 | C8H9ClO
solvent | acetone | 20 mL | CC(=O)C | C3H6O
catalyst | tetrabutylammonium iodide | 0.05 mmol, 0.02 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Methoxy-2-napthalenesulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]-(2-methoxybenzyl)amide | C(#N)C=1C=C(CN2C([C@H](CC2)N(S(=O)(=O)C2=CC3=CC(=CC=C3C=C2)OC)CC2=C(C=CC=C2)OC)=O)C=CC1 | C31H29N3O5S
